US06579872B1
Using an analogous procedure to that described in the first paragraph of Example 25, 3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzoic acid was reacted with N-(3-amino-4-methylphenyl)-3-morpholinobenzamide to give N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzamide in 58% yield; NMR Spectrum: (DMSOd6) 1.38 (s, 9H), 2.1 (m, 2H), 2.18 (s, 3H), 3.18 (t, 4H), 3.35 (m, 1H), 3.41 (m, 2H), 3.75 (t, 4H), 5.1 (m, 1H), 7.12 (td, 1H), 7.21 (d, 1H), 7.37 (m, 3H), 7.41 (t, 2H), 7.5 (s, 1H), 7.57 (d, 1H), 7.78 (d, 1H), 9.83 (s, 1H), 10.1 (s, 1H); Mass Spectrum: M+H+ 601.

reactant | 3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzoic acid | C(C)(C)(C)OC(=O)N1CC(CC1)OC=1C=C(C(=O)O)C=CC1 | C16H21NO5
reactant | N-(3-amino-4-methylphenyl)-3-morpholinobenzamide | NC=1C=C(C=CC1C)NC(C1=CC(=CC=C1)N1CCOCC1)=O | C18H21N3O2
product | N-[2-methyl-5-(3-morpholinobenzamido)phenyl]-3-(1-tert-butoxycarbonylpyrrolidin-3-yloxy)benzamide | 58% yield | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)N1CCOCC1)=O)NC(C1=CC(=CC=C1)OC1CN(CC1)C(=O)OC(C)(C)C)=O | C34H40N4O6
